US08541429B2
Step 4. 8-[3-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide [B104-X00-M03(C01)-D04]
Pd(OAc)2 (16.34 mg, 0.0728 mmol), (±)-BINAP (45.33 mg, 0.0728 mmol) and dimethylformamide (12 mL) were charged in a round-bottom flask flushed with argon. The mixture was stirred under argon for 30 minutes. Then 3-(4-methyl-piperazin-1-ylmethyl)-phenylamine (448.4 mg, 2.184 mmol), ethyl 8-iodo-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide (300 mg, 0.728 mmol), K2CO3 (1.508 g, 10.910 mmol) and dimethylformamide (10 mL) were added. The resulting mixture was heated to 80° C. in an oil bath under argon with good stirring for 3 hours. After cooling to room temperature, the reaction mixture was filtered by suction filtration washing with dichloromethane and the filtrate was evaporated to dryness. The crude was purified by flash chromatography on silica gel (eluant; dichloromethane/methanol 95:5) to afford 215 mg (yield 62%) of pure title compound.

reactant | 3-(4-methyl-piperazin-1-ylmethyl)-phenylamine | 2.184 mmol, 448.4 mg | CN1CCN(CC1)CC=1C=C(C=CC1)N | C12H19N3
reactant | ethyl 8-iodo-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide | 0.728 mmol, 300 mg | CNC(=O)C1=NN(C2=C1C(C(C=1C=NC(=NC21)I)CC)(C)C)C | C16H20IN5O
reactant | K2CO3 | 10.910 mmol, 1.508 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.0728 mmol, 16.34 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 8-[3-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide | 215 mg, yield 62% | CNC(=O)C1=NN(C2=C1C(CC=1C=NC(=NC21)NC2=CC(=CC=C2)CN2CCN(CC2)C)(C)C)C | C26H34N8O
